US05306827
Preparation of 2-(p-Chlorophenyl)-5-[(trifluoromethyl)thio]pyrrole
Trifluoromethylsulfenyl chloride is bubbled into a solution of 2-(p-chlorophenyl)pyrrole (0.5 g, 0.00281 mol) and sodium carbonate (0.36 g, 0.00338 mol) in ether at -30° C. under nitrogen. The reaction mixture is stirred for 1/2 hour and diluted with a water/ether mixture. The organic phase is separated, washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title product as a purple solid (0.78 g, mp 34°-39° C.) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | Trifluoromethylsulfenyl chloride | FC(SCl)(F)F | CClF3S
reactant | 2-(p-chlorophenyl)pyrrole | 0.00281 mol, 0.5 g | ClC1=CC=C(C=C1)C=1NC=CC1 | C10H8ClN
reactant | sodium carbonate | 0.00338 mol, 0.36 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | water ether | O.CCOCC
product | 2-(p-Chlorophenyl)-5-[(trifluoromethyl)thio]pyrrole | 0.78 g | ClC1=CC=C(C=C1)C=1NC(=CC1)SC(F)(F)F | C11H7ClF3NS
